US07365061B2
Part III: 3-Benzyloxycarbonylamino-2-oxo-1,2,3,4-tetrahydronaphthalene
To a solution of trans 3-benzyloxycarbonylamino-2-hydroxy-1,2,3,4-tetrahydronaphthalene (850 mg) in dichloromethane (29 mL) stirring under nitrogen at room temperature was added pyridinium chlorochromate (740 mg). After 3 h, the reaction mixture was evaporated under vacuum onto silica gel and then purified by silica gel chromatography eluting with a step-wise gradient of 30-75% ethyl acetate in hexane to obtain the title compound (300 mg) as a white solid and starting material (350 mg).

reactant | trans 3-benzyloxycarbonylamino-2-hydroxy-1,2,3,4-tetrahydronaphthalene | 850 mg | C(C1=CC=CC=C1)OC(=O)N[C@H]1[C@@H](CC2=CC=CC=C2C1)O | C18H19NO3
reactant | pyridinium chlorochromate | 740 mg | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
solvent | dichloromethane | 29 mL | ClCCl | CH2Cl2
product | 3-Benzyloxycarbonylamino-2-oxo-1,2,3,4-tetrahydronaphthalene | 300 mg | C(C1=CC=CC=C1)OC(=O)NC1C(CC2=CC=CC=C2C1)=O | C18H17NO3
